US08609731B2
N-((S)-6-Allyl-1,2,3,4-tetrahydronaphthalen-2-yl)-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide
A mixture of N-((S)-6-bromo-1,2,3,4-tetrahydronaphthalen-2-yl)-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide (1.00 g), toluene (10 ml), Pd(PPh3)4 (26.7 mg) and allyltributyltin (2.46 g) was boiled at reflux for 5 hours. The cooled reaction mixture was diluted with ethyl acetate and washed with water. The organic phase was washed with sodium chloride solution, dried over sodium sulfate and concentrated. The residue was purified by chromatography on silica gel. The product was thus obtained with the molecular weight of 391.51 (C25H29NO3); MS (ESI): 392 (M+H+).

reactant | N-((S)-6-bromo-1,2,3,4-tetrahydronaphthalen-2-yl)-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide | 1.00 g | BrC=1C=C2CC[C@@H](CC2=CC1)NC(C1=CC=C(C=C1)OC[C@H]1OCCC1)=O | C22H24BrNO3
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | allyltributyltin | 2.46 g | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 26.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-((S)-6-Allyl-1,2,3,4-tetrahydronaphthalen-2-yl)-4-[(S)-1-(tetrahydrofuran-2-yl)methoxy]benzamide | C(C=C)C=1C=C2CC[C@@H](CC2=CC1)NC(C1=CC=C(C=C1)OC[C@H]1OCCC1)=O | C25H29NO3
